US05789419
N-[3-(Trifluoromethyl)phenyl]-3,3-dimethylazetidin-2-one:
Dissolved in dimethylformamide were 1.4 g of N-[3-(trifluoromethyl) phenyl]-2-chloromethyl-2-methylpropionamide, and 0.24 g of sodium hydride were added with stirring at 5° C. After stirring the mixture at room temperature for 15 hours, it was added with ice water and extracted with diethyl ether. The extract was dried over magnesium sulfate. Diethyl ether was distilled off, and the residue was purified by column chromatography on silica gel to obtain 1.00 g (yield: 82%) of the title compound.

reactant | N-[3-(trifluoromethyl) phenyl]-2-chloromethyl-2-methylpropionamide | 1.4 g | FC(C=1C=C(C=CC1)NC(C(C)(C)CCl)=O)(F)F | C12H13ClF3NO
reactant | sodium hydride | 0.24 g | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[3-(Trifluoromethyl)phenyl]-3,3-dimethylazetidin-2-one | 1.00 g, yield: 82% | FC(C=1C=C(C=CC1)N1C(C(C1)(C)C)=O)(F)F | C12H12F3NO
